US07642264B2
4,6-Difluoro-3′-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-biphenyl-3-sulfonic acid amide
The title compound was prepared from 3-[6-methyl-4-(4-trifluoromethyl-phenyl)pyridin-2-yl]-benzeneboronic acid (example G.9) (0.40 g, 1.1 mmol) and commercially available 5-bromo-2,4-difluoro-benzenesulfonamide (0.635 g, 2.3 mmol) according to the general procedure VI. Obtained as a white solid (0.150 g, 27%). MS (ISP) 505.1 [(M+H)+]; mp 227° C.

reactant | 3-[6-methyl-4-(4-trifluoromethyl-phenyl)pyridin-2-yl]-benzeneboronic acid | 1.1 mmol, 0.40 g | CC1=CC(=CC(=N1)C=1C=C(C=CC1)B(O)O)C1=CC=C(C=C1)C(F)(F)F | C19H15BF3NO2
reactant | 5-bromo-2,4-difluoro-benzenesulfonamide | 2.3 mmol, 0.635 g | BrC=1C(=CC(=C(C1)S(=O)(=O)N)F)F | C6H4BrF2NO2S
product | 4,6-Difluoro-3′-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-biphenyl-3-sulfonic acid amide | FC1=C(C=C(C(=C1)F)C1=CC(=CC=C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)S(=O)(=O)N | C25H17F5N2O2S
